US06242443B1
6-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)methyl-3-isopropylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide
A mixture of ethyl (3-isopropylamino-1,1-dioxo-1,4-dihydro-1λ6,2,4-benzothiadiazin-6-yl)acetate (0.20 g), crushed 4 Å molecular sieves (0.6 g), cyclopropanecarboxamide oxime (0.30 g), and sodium hydride (40 mg of a 60% oil dispersion) in 5 ml of dry dimethylformamide was stirred at room temperature for 45 min. Two drops of glacial acetic acid and 20 ml of dichloromethane were added and the mixture was stirred for 10 min. and filtered through celite. The solvents were removed in vacuo from the filtrate. The remaining oil was stirred with 5 ml of water for 15 min and the resulting precipitate was collected by filtration and dried to give the title compound; m.p. 255-259° C.

reactant | ethyl (3-isopropylamino-1,1-dioxo-1,4-dihydro-1λ6,2,4-benzothiadiazin-6-yl)acetate | 0.20 g | C(C)(C)NC1=NS(C2=C(N1)C=C(C=C2)CC(=O)OCC)(=O)=O | C14H19N3O4S
reactant | cyclopropanecarboxamide oxime | 0.30 g | C1(CC1)C(N)=NO | C4H8N2O
reactant | sodium hydride | [H-].[Na+]
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | acetic acid | Two drops | C(C)(=O)O | C2H4O2
product | 6-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)methyl-3-isopropylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide | C1(CC1)C1=NOC(=N1)CC=1C=CC2=C(NC(=NS2(=O)=O)NC(C)C)C1 | C16H19N5O3S
